US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60 from 275 mg (0.68 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 3 mL THF and 360 mg (1.51 mmol) of 2-chloro-5-iodo-pyridine in 2 mL THF with 0.79 mL 2M isopropylmagnesium chloride. Yield: 187 mg of a white powder. LC-MSD, m/z for C21H13BrClN3O2 [M+H]+=454.0, 456.0; HPLC retention time: 2.2 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.68 mmol, 275 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C18H16BrN3O3
reactant | 2-chloro-5-iodo-pyridine | 1.51 mmol, 360 mg | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | isopropylmagnesium chloride | 2M, 0.79 mL | C(C)(C)[Mg]Cl
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C=NC(=CC1)Cl | C21H13BrClN3O2
